US07622589B2
10C) Ethyl 2-(6-tert-butylpyridin-3-yl)cyclopropanecarboxylate
To a toluene (60 ml) solution of 2-tert-butyl-5-isopropenylpyridine (5.96 g, 34 mmol), Co(TPP) (0.69 g, 1.0 mmol) and 1-methyl-1H-imidazole (8.37 g, 102 mmol), ethyl diazoacetate (5.4 g, 48 mmol) was added and the mixture was stirred for 5 minutes at room temperature followed by additional stirring for 1 hour at 80° C. Then, evaporation of the solvent and purification by silica gel column chromatography, eluting with gradually from hexane to hexane/ethylacetate (30:1), gave the title compound (3.51 g, 39%, trans) as white solids.

reactant | 2-tert-butyl-5-isopropenylpyridine | 34 mmol, 5.96 g | C(C)(C)(C)C1=NC=C(C=C1)C(=C)C | C12H17N
reactant | 1-methyl-1H-imidazole | 102 mmol, 8.37 g | CN1C=NC=C1 | C4H6N2
reactant | ethyl diazoacetate | 48 mmol, 5.4 g | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-(6-tert-butylpyridin-3-yl)cyclopropanecarboxylate | 3.51 g, 39% | C(C)(C)(C)C1=CC=C(C=N1)C1C(C1)C(=O)OCC | C15H21NO2
